US08865713B2
Step C: 5-chloro-1-(2-methoxy-ethoxymethyl)-6-pyrrolidin-1-yl-1H-benzoimidazole.
To a mixture of 6-chloro-5-pyrrolidin-1-yl-1H-benzoimidazole (0.443 g, 2.00 mmol) and THF (5 mL) was added NaH (96.0 mg, 60% dispersion in mineral oil, 2.40 mmol) at 0° C. After stirring the reaction mixture for 30 min at 0° C., 1-chloromethoxy-2-methoxy-ethane (0.299 g, 2.40 mmol) was added and the mixture was stirred for 18 h. The reaction mixture was quenched with water and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (2×20 mL), dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (0-10% MeOH/DCM) to yield the titled compound as a mixture of regioisomers (0.240 g, 39%) with a purity of 90%. MS (ESI/CI): mass calcd. for C15H20ClN3O2, 309.1; m/z found, 310.1 [M+H]+.

reactant | 6-chloro-5-pyrrolidin-1-yl-1H-benzoimidazole | 2.00 mmol, 0.443 g | ClC=1C(=CC2=C(NC=N2)C1)N1CCCC1 | C11H12ClN3
reactant | NaH | 2.40 mmol, 96.0 mg | [H-].[Na+]
reactant | 1-chloromethoxy-2-methoxy-ethane | 2.40 mmol, 0.299 g | ClCOCCOC | C4H9ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-chloro-1-(2-methoxy-ethoxymethyl)-6-pyrrolidin-1-yl-1H-benzoimidazole | ClC1=CC2=C(N(C=N2)COCCOC)C=C1N1CCCC1 | C15H20ClN3O2
